US07776857B2
A scintillation vial was charged with (2S,4R), (2R,4R)-methyl 1-(2-(((9H-fluoren-9-yl)methoxy)carbonyl)acetyl)-4-fluoropyrrolidine-2-carboxylate (815 mg, 1911 μmol), 19 mL MeOH and piperidine (946 μl, 9556 μmol). The mixture was stirred at RT overnight The mixture was concentrated, dissolved in DCM/MeOH and purified by silica gel chromatography, 50-100% 90/10/1 DCM/MeOH/NH4OH in DCM. (7R)-7-fluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione was isolated as a white solid, and confirmed by 1H-NMR.

reactant | (2R,4R)-methyl 1-(2-(((9H-fluoren-9-yl)methoxy)carbonyl)acetyl)-4-fluoropyrrolidine-2-carboxylate | 1911 μmol, 815 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)CC(=O)N1[C@H](C[C@H](C1)F)C(=O)OC | C23H22FNO5
reactant | piperidine | 9556 μmol, 946 μl | N1CCCCC1 | C5H11N
solvent | MeOH | 19 mL | CO | CH4O
product | (7R)-7-fluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione | F[C@@H]1CC2N(C(CNC2=O)=O)C1 | C7H9FN2O2
